US07247626B2
To a mixture of cyclopentyl guanidine hydrochloride (1.05g, 6.43 mmol) in ethanol (60 mL) was added sodium ethoxide (2.15 mL, 3 M in ethanol, 6.43 mmol). The mixture was stirred at room temperature for 30 minutes then cooled to 0° C. A solution of 1-[2-(3-chlorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-2-propyn-1-one (1.4 g, 4.97 mmol) in ethanol (100 mL) was added and the reaction mixture was stirred at room temperature 16 hours. The reaction mixture was diluted with water (200 mL) then concentrated to about two thirds the original volume. The precipitated solids were collected on a filter to provide 4-[2-(3-Chlorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-N-cyclopentylpyrimidin-2-amine (1.25 g, 64%) as a white solid. Rf 0.19 (4:1 hexanes:ethyl acetate); 1H NMR (CDCl3) δ9.32 (s,1H), 8.22 (d,1H), 8.13 (d, 1H), 8.01 (d, 1H), 7.72 (s,1H), 7.55–7.39 (m, 3H), 6.38 (d,1H), 5.19 (d, 1H), 4.33 (m, 1H), 2.08 (m, 2H), 1.80–1.52 (m, 6H); MS m/z 391 (M+1).

reactant | cyclopentyl guanidine hydrochloride | 6.43 mmol, 1.05g | Cl.C1(CCCC1)NC(=N)N
reactant | sodium ethoxide | 6.43 mmol, 3 M, 2.15 mL | [O-]CC.[Na+]
reactant | 1-[2-(3-chlorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-2-propyn-1-one | 4.97 mmol, 1.4 g | ClC=1C=C(C=CC1)C1=NN2C=NC=CC2=C1C(C#C)=O | C15H8ClN3O
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | 4-[2-(3-Chlorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-N-cyclopentylpyrimidin-2-amine | 1.25 g, 64% | ClC=1C=C(C=CC1)C1=NN2C=NC=CC2=C1C1=NC(=NC=C1)NC1CCCC1 | C21H19ClN6
